US05354746
N-phenylethylenediamine (24.4 g, 0.18 mole) and benzylaldehyde (19.1 g, 0.18 mole) were mixed neat, let stand for 1 hour, diluted with Et2O, and dried over NA2SO4. Removal of the solvent under reduced pressure gave 34.5 g of the benzaldehyde imine. To 5.0 g (22.3 mmol) of the imine dissolved in 80 mL of ethanol was added 3.0 g of NaBH4 (78.9 mmol) portion-wise while stirring. After 3 hours at room temperature, all solvent was stripped under reduced pressure and the residue was dissolved in dilute HCl. This mixture was filtered, and the filtrate was made basic with dilute NaOH before extracting with Et2O. This extract was dried over Na2SO4 and stripped of all solvent to provide 3.9 g of the desired diamine. A mixture of this diamine (31 g, 0.137 mole) and triethylamine (28 g, 0.277 mole) was added dropwise over 30 minutes to a stirred solution of ethyl-2,3-dibromopropionate (35.0 g, 0.135 mole) dissolved in 200 mL of toluene and heated to 40° C. After the addition was complete, the reaction was heated at 80°-85° C. for 7 hours, cooled to room temperature, and partitioned between water and toluene. The organic layer was separated, dried, and stripped of all solvent under reduced pressure to yield 38 g of the crude product. Chromatographic purification gave 12.8 g of ethyl 1-phenyl-4-(phenylmethyl)-2-piperazinecarboxylate. An ethanol (EtOH) (75 mL) solution of ethyl 1-phenyl-4-(phenylmethyl)-2-piperazinecarboxylate (2.20 g, 6.8 mmol) and 500 mg of 4% Pd/C was subjected to hydrogenolysis in a standard Parr apparatus. The reaction was carried out for 10 hours at 55° C. and under a hydrogen pressure of 5 psi After the catalyst was removed by filtration, and the solvent was removed by stripping under reduced pressure, 1.5 g of ethyl 1-phenyl-2-piperazinecarboxylate was obtained as a clear oil.

reactant | ethyl 1-phenyl-4-(phenylmethyl)-2-piperazinecarboxylate | 6.8 mmol, 2.20 g | C1(=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)C(=O)OCC | C20H24N2O2
catalyst | Pd/C | 500 mg | [Pd] | Pd
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | ethyl 1-phenyl-2-piperazinecarboxylate | 1.5 g | C1(=CC=CC=C1)N1C(CNCC1)C(=O)OCC | C13H18N2O2
